US07547710B2
2-{[3-(aminomethyl)-2-isobutyl-4-phenylquinolin-6-yl]oxy}acetamide Dihydrochloride
To a solution of tert-butyl [6-(2-amino-2-oxoethoxy)-2-isobutyl-4-phenylquinolin-3-yl]methylcarbamate (0.10 g, 0.21 mmol) in tetrahydrofuran (5 ml) was added trifluoroacetic acid (5 ml), and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was partitioned between ethyl acetate (50 ml) and 10% aqueous potassium carbonate solution (100 ml). The aqueous layer was separated and extracted twice with ethyl acetate-isopropanol (10:1, 25 ml). The organic layer and the extract were combined and washed with saturated brine (10 ml), and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to give a colorless oil. The obtained colorless oil was dissolved in ethyl acetate (2 ml) and 4N solution of hydrogen chloride in ethyl acetate (1 ml) was added. The reaction mixture was concentrated and the obtained residue was crystallized from diisopropyl ether-methanol to give the title compound (0.062 g, yield 67%) as pale-yellow crystals.

reactant | tert-butyl [6-(2-amino-2-oxoethoxy)-2-isobutyl-4-phenylquinolin-3-yl]methylcarbamate | 0.21 mmol, 0.10 g | NC(COC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=CC=C1)=O | C27H33N3O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 2-{[3-(aminomethyl)-2-isobutyl-4-phenylquinolin-6-yl]oxy}acetamide Dihydrochloride | 0.062 g, yield 67% | Cl.Cl.NCC=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)OCC(=O)N)CC(C)C | InChI=1S/C22H25N3O2.2ClH/c1-14(2)10-20-18(12-23)22(15-6-4-3-5-7-15)17-11-16(27-13-21(24)26)8-9-19(17)25-20;;/h3-9,11,14H,10,12-13,23H2,1-2H3,(H2,24,26);2*1H
